US06635657B1
D. N-(5-Chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide
A solution containing N-(5-chloropyridin-2-yl)-2-(1-Boc-piperidin-4-yl-methylidene)aminobenzamide (1.35 g, 3.05 mmol) and borane trimethylamine complex (667 mg, 9.14 mmol) in glacial acetic acid (50 mL) was heated at reflux for 2 h. The mixture was concentrated and the residue was dissolved in methanol and 12 N HCl. After 24 h, the mixture was concentrated, the residue was dissolved in 2 N ammonia in methanol and concentrated. The residue was triturated from methanol:EtOAc yielding 1.03 g (98%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-2-(1-Boc-piperidin-4-yl-methylidene)aminobenzamide | 3.05 mmol, 1.35 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)N=CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C23H27ClN4O3
reactant | borane trimethylamine complex | 9.14 mmol, 667 mg | [B-][N+](C)(C)C | C3H9BN
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | N-(5-Chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCNCC1)=O | C18H21ClN4O
